US06187777B1
2-Methyl-4-piperidyl-6-pyrazin-2-ylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate.
Using the method described in Example 30 by employing 2-(1-pyrrolidinylvinyl)pyrazine (freshly prepared before use) (2.15 g, 12.3 mmol), 2-methyl-4,6-dichloro-5-nitropyrimidine (Example 76(b)) (2.50 g, 12.3 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (2.1 mL, 12.3 mmol), piperidine (Aldrich Chemical Company) (1.9 mL, 19.7 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (37 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 116 mg (4%) of the free base as a brown colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.66 (br s, 6), 2.44 (s, 3), 3.30 (s, 2, under H2O), 3.77 (br s, 2), 6.80-7.15 (m, 1), 8.91 (br s, 2), 9.33 (s, 1), 11.42 (s, 1). MS m/z: 295 (M+1). To a hot solution of 2-methyl-4-piperidyl-6-pyrazin-2-ylpyrrolo[3,2-d]pyrimidine (0.12 g, 0.39 mmol) in 10:1 EtOAc:MeOH (30 mL) was added 1N etheral HCl (Aldrich Chemical Company) (0.40 mL, 0.39 mmol). Cyrstallization occurred as the mixture cooled and the precipitate was collected by filtration, washed with Et2O (3×10 mL), and dried under vacuum to give 68 mg (53%) of the title compound as a brown colored solid. Mp: 280-283.5° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.72 (s, 6), 2.59 (s, 3), 4.08 (br s, 4), 7.29 (s, 1), 8.74 (d, 1, J=2.4), 8.82 (br s, 1), 9.49 (s, 1), 12.41 (s, 1), 14.41 (s, 1). MS m/z: 295 (M+1 for free base). Anal. Calcd for C16H16N6.HCl.1.4H2O: C, 54.07; H, 5.64; N, 23.65; Cl, 10.19. Found C, 54.32; H, 5.69; N, 23.26; Cl, 10.18.

reactant | 2-methyl-4-piperidyl-6-pyrazin-2-ylpyrrolo[3,2-d]pyrimidine | 0.39 mmol, 0.12 g | CC1NCCC(C1)C1=NC=C2C(N1)=CC(=N2)C2=NC=CN=C2 | C16H18N6
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 0.39 mmol, 1N, 0.40 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 2-Methyl-4-piperidyl-6-pyrazin-2-ylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate | 68 mg, 53% | O.Cl.CC1NCCC(C1)C1=NC=C2C(N1)=CC(=N2)C2=NC=CN=C2 | InChI=1S/C16H18N6.ClH.H2O/c1-10-6-11(2-3-18-10)16-20-9-15-13(22-16)7-12(21-15)14-8-17-4-5-19-14;;/h4-5,7-11,18H,2-3,6H2,1H3,(H,20,22);1H;1H2
